US05283270
Preparation of N,N,N',N'-Tetraglycidyl(3,5-diaminobenzotrifluoride) (35-DABTF resin)
A mixture of 3,5-diaminobenzotrifluoride (116.9 grams, 0.66 moles), epichlorohydrin (491.5 grams, 5.31 moles), water (35 grams) and 95 wt% ethanol (257 grams) was heated in a resin kettle at 80° C. After 6 hours, the temperature was lowered to 60° C. and 30wt% sodium hydroxide solution (445 grams, 3.34 moles) was added over a 1 hour period. The mixture was heated an additional 3.5 hours at 60° C. The volatile components were removed by evaporative distillation at 60° C. and 30 mm. The resin was dissolved in toluene (585 mL) and washed four times with water (750 mL, 500 mL, 500 mL and 500 mL). Removal of the toluene and the residual water by evaporative distillation provided an amber resin (262.3 grams, 98.8 wt%). The weight of the resin per epoxide was 125.6 using the method described by W. Liu, E.M. Pearce and T.K. Kwei; J. Appl. Pol. Sci. 30 2907 (1985). The epoxy content of the 35-DABTF resin sample was 80%.

reactant | 3,5-diaminobenzotrifluoride | 0.66 moles, 116.9 grams | NC=1C=C(C=C(C1)N)C(F)(F)F | C7H7F3N2
reactant | epichlorohydrin | 5.31 moles, 491.5 grams | C(Cl)C1CO1 | C3H5ClO
reactant | water | 35 grams | O | H2O
reactant | sodium hydroxide | 3.34 moles, 445 grams | [OH-].[Na+]
solvent | ethanol | 257 grams | C(C)O | C2H6O
product | N,N,N',N'-Tetraglycidyl(3,5-diaminobenzotrifluoride) | C(C1CO1)N(C=1C=C(C=C(C1)N(CC1CO1)CC1CO1)C(F)(F)F)CC1CO1 | C19H23F3N2O4
